US08664216B2
c) (RS)-3′H-Spiro[azepane-4,1′-[2]benzofuran]
A solution of (RS)-1-benzyl-3′H-spiro[azepane-4,1′-[2]benzofuran] (4.00 g, 13.6 mmol) in methanol (50 ml) in an autoclave was purged with argon. After addition of the palladium catalyst (10% Pd on activated charcoal, 1 g) the autoclave was pressurized with 5 bar of hydrogen gas. The mixture was stirred over night at room temperature. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was partitioned between ethyl acetate and aqueous sodium hydroxide solution (pH 14). The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give the title compound as white solid (2.5 g, 90%).

reactant | (RS)-1-benzyl-3′H-spiro[azepane-4,1′-[2]benzofuran] | 13.6 mmol, 4.00 g | C(C1=CC=CC=C1)N1CCC2(OCC3=C2C=CC=C3)CCC1 | C20H23NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 1 g | [Pd] | Pd
product | (RS)-3′H-Spiro[azepane-4,1′-[2]benzofuran] | 2.5 g, 90% | C12(OCC3=C1C=CC=C3)CCNCCC2 | C13H17NO
